US04013692
3-Phenyl-7-benzofuranacetic acid (2.5 g., 0.01 mole) is reduced with hydrogen gas using palladium on charcoal as catalyst and ethanol as solvent in a Brown hydrogenator. After the absorption of hydrogen stops, the reaction mixture is filtered, then the filtrate is evaporated in vacuo to a white solid. Recrystallization from a benzene-hexane mixture gives white crystals of 2,3-dihydro-3-phenyl-7-benzofuranacetic acid, m.p. 110.5°-111.5° C.

reactant | 3-Phenyl-7-benzofuranacetic acid | 0.01 mole, 2.5 g | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)O | C16H12O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-3-phenyl-7-benzofuranacetic acid | C1(=CC=CC=C1)C1C(OC=2C(C=CC2)=C1)CC(=O)O | C16H14O3
